### PR TITLE
[Merged by Bors] - feat(RingTheory/Flat): Add theorems relating Submodule.torsion and Module.Flat

### PR DESCRIPTION
**Pull request by matthewjasper**
Co-authored-by: Kevin Buzzard <k.buzzard@imperial.ac.uk>

---

This PR continues the work from #25334.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 1]
```diff
@@ -0,0 +1,145 @@
...
+
+open LinearMap in
+
+/-- Scalar multiplication `m ↦ r • m` by a nonzerodivisor `r` is injective on a flat module. -/
+lemma isSMulRegular_of_nonZeroDivisors {r : R} (hr : r ∈ R⁰) [Flat R M] : IsSMulRegular M r := by
+  have hr : IsRegular r := le_nonZeroDivisors_iff_isRegular.mp (le_refl R⁰) ⟨r, hr⟩
+  apply isSMulRegular_of_isRegular hr
+
+/-- Flat modules have no torsion. -/
+theorem torsion_eq_bot [hflat : Flat R M] : torsion R M = ⊥ := by
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]:
```suggestion
theorem torsion_eq_bot [Flat R M] : torsion R M = ⊥ := by
```
You don't use `hflat` explicitly, right?

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 2]
```diff
@@ -0,0 +1,145 @@
...
+      Ideal.subtype_isoBaseOfIsPrincipal_eq_mul, LinearMap.lift_lsmul_mul_eq_lsmul_lift_lsmul,
+      LinearMap.coe_comp]
+    rw [← Submodule.noZeroSMulDivisors_iff_torsion_eq_bot] at htors
+    refine Function.Injective.comp (LinearMap.lsmul_injective this) ?_
+    rw [← Equiv.injective_comp (TensorProduct.lid R M).symm.toEquiv]
+    convert Function.injective_id
+    ext
+    simp
+
+-- TODO: Add definition and properties of Prüfer domains
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: TODOs randomly added in the middle of files are not tracked and the comments are kind of lost. If this really is a TODO then can you add it to the module docstring, where it's far more visible?

**Review by kbuzzard — APPROVED** [review]
LGTM!

**Comment by kbuzzard** [comment]
@matthewjasper is this still awaiting-author? It's tagged awaiting-author so is not on the review queue.

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean [hunk 3]
```diff
@@ -153,4 +153,28 @@ noncomputable def associatesNonZeroDivisorsMulEquivIsPrincipal :
     erw [associatesNonZeroDivisorsEquivIsPrincipal_mul]
     rfl
 
+/-- A nonzero principal ideal in an integral domain `R` is isomorphic to `R` as a module.
+The isomorphism we choose here sends `1` to the generator chosen by `Ideal.generator`. -/
+noncomputable def isoBaseOfIsPrincipal {I : Ideal R}
+    [hprinc : I.IsPrincipal] (hI : I ≠ ⊥) : R ≃ₗ[R] I :=
+  let x := IsPrincipal.generator I
```
Comment (kbuzzard) [inline Mathlib/RingTheory/Ideal/IsPrincipal.lean]: Does this dump a random `let` into the term? This is a def. I'm always a bit unsure about this. Would `letI` be better here or am I fussing about nothing? Similarly `haveI` for the next line. Sorry I'm a bit unclear on this but I thought I may as well flag it. If this isn't what `letI` is for, then I guess I don't understand `letI` at all.

**Review by kbuzzard — APPROVED** [review]
Modulo a minor worry about a `let` in a proof this looks good to me. Apparently I authored some of this though so I'm hesitant to merge.

maintainer delegate

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 4]
```diff
@@ -0,0 +1,146 @@
...
+
+open Submodule (IsPrincipal torsion)
+
+open TensorProduct
+
+namespace Module.Flat
+
+section Semiring
+
+variable {R M : Type u} [CommSemiring R] [AddCommMonoid M] [Module R M]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]:
```suggestion
variable {R M : Type*} [CommSemiring R] [AddCommMonoid M] [Module R M]
```
If you want (you can remove the `universe` line).

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 5]
```diff
@@ -0,0 +1,146 @@
...
+
+universe u v
+
+open Function (Injective Surjective)
+
+open LinearMap (lsmul rTensor lTensor)
+
+open Submodule (IsPrincipal torsion)
+
+open TensorProduct
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/TorsionFree.lean:37]: Can these `open` be put on the same line? It seems the standard in mathlib (but not very important).

File: Mathlib/RingTheory/Flat/TorsionFree.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Flat/TorsionFree.lean]: Also, the `variable {R M : Type*}` part can be written before sectionning, so only once.

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 6]
```diff
@@ -0,0 +1,146 @@
...
+
+variable {R M : Type u} [CommRing R] [AddCommGroup M] [Module R M]
+
+open scoped nonZeroDivisors
+
+open LinearMap in
+
+/-- Scalar multiplication `m ↦ r • m` by a nonzerodivisor `r` is injective on a flat module. -/
+lemma isSMulRegular_of_nonZeroDivisors {r : R} (hr : r ∈ R⁰) [Flat R M] : IsSMulRegular M r := by
+  have hr : IsRegular r := le_nonZeroDivisors_iff_isRegular.mp (le_refl R⁰) ⟨r, hr⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: Can you do `apply isSMulRegular_of_isRegular` and then `exact ...`? It seems more natural.

File: Mathlib/RingTheory/Flat/TorsionFree.lean [hunk 7]
```diff
@@ -0,0 +1,146 @@
...
+  apply isSMulRegular_of_isRegular hr
+
+/-- Flat modules have no torsion. -/
+theorem torsion_eq_bot [Flat R M] : torsion R M = ⊥ := by
+  rw [eq_bot_iff]
+  -- indeed the definition of torsion means "annihiliated by a nonzerodivisor"
+  rintro m ⟨⟨r, hr⟩, (h : r • m = 0)⟩
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Flat/TorsionFree.lean]: Are we missing a `rfl` lemma that is forcing you to specify the type of `h`?

File: Mathlib/RingTheory/Ideal/IsPrincipal.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Ideal/IsPrincipal.lean]: I also think `letI` is more appropriate here.

File: Mathlib/RingTheory/Flat/TorsionFree.lean (hunk 5 above)
Comment (matthewjasper) [reply Mathlib/RingTheory/Flat/TorsionFree.lean:37]: No, open with explicit imports can't be combined

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
